US07019003B2
N-Butylhydrazinecarboxylic acid tert-buyl ester
To a solution of butylhydrazine (510 mg, 5.80 mmol) and triethylamine (1.2 mL, 8.69 mmol) in dichloromethane (20 mL) at 0° C. was added di-t-butyl dicarbonate (1.26 g, 5.80 mmol). The reaction mixture was stirred and allowed to warm up to room temperature overnight. Water (20 mL) was then added to the reaction mixture. The aqueous layer was extracted with dichloromethane (20 mL×2). The combined organic layers were dried (MgSO4). Filtration and evaporation under vacuum provided the title compound (820 mg, 75%). 1H NMR (400 MHz, CHCl3) δ 3.89 (br s, 2H), 3.29 (t, J=7.1 Hz, 2H), 1.46 (m, 2H), 1.40 (s, 9H), 1.24 (m, 2H), 0.86 (t, J=7.3 Hz, 3H). MH+189.

reactant | butylhydrazine | 5.80 mmol, 510 mg | C(CCC)NN | C4H12N2
reactant | triethylamine | 8.69 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 5.80 mmol, 1.26 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 20 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-Butylhydrazinecarboxylic acid tert-buyl ester | 820 mg, 75% | C(C)(C)(C)OC(=O)N(N)CCCC | C9H20N2O2
